US09382238B2
To a mixture of 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid (150 mg, 0.365 mmol) in pyridine (2 mL) were added ethyl 3-(4-amino-2-(trifluoromethyl)phenyl)-2,2-difluoropropanoate (108 mg, 0.365 mmol) and T3P® (EA solvate) (464 mg, 0.729 mmol). The mixture was stirred at 20° C. for 1 h. LCMS and TLC (PE/EA=1:1, Rf=0.5) showed the reaction was finished. The mixture was concentrated and then purified by TLC (PE/EA=1:1, Rf=0.5) to give ethyl 3-(4-(2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamido)-2-(trifluoromethyl)phenyl)-2,2-difluoropropanoate (120 mg, 0.150 mmol, 41.2% yield): 1H NMR (400 MHz, CD3OD-d4) δ 8.08-8.02 (m, 1H), 7.94 (d, J=2.0 Hz, 1H), 7.78 (s, 1H), 7.54-7.33 (m, 7H), 6.90 (d, J=8.8 Hz, 2H), 5.35 (s, 2H), 4.26 (q, J=7.3 Hz, 2H), 4.13 (q, J=7.1 Hz, 2H), 3.81 (s, 2H), 3.78 (s, 3H), 3.63-3.52 (m, 2H), 1.41 (t, J=7.1 Hz, 3H), 1.25 (t, J=7.2 Hz, 3H); ES-LCMS m/z 691 (M+H).

reactant | 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid | 0.365 mmol, 150 mg | C(C)OC=1C=C(C=NC1OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)O)F | C23H22FNO5
reactant | ethyl 3-(4-amino-2-(trifluoromethyl)phenyl)-2,2-difluoropropanoate | 0.365 mmol, 108 mg | NC1=CC(=C(C=C1)CC(C(=O)OCC)(F)F)C(F)(F)F | C12H12F5NO2
reactant | T3P | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | EA | CC(OCC)=O | C4H8O2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | ethyl 3-(4-(2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamido)-2-(trifluoromethyl)phenyl)-2,2-difluoropropanoate | 0.150 mmol, 120 mg, 41.2% yield | C(C)OC=1C=C(C=NC1OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)NC1=CC(=C(C=C1)CC(C(=O)OCC)(F)F)C(F)(F)F)F | C35H32F6N2O6
